US06323235B1
3-((4-phenyl-2-oxobutoxy)carbonylmethyl)-7-methoxybenzofuran
7-methoxybenzofuran-3-carboxylic acid (220 mg) was dissolved in THF (5 ml). To this solution, 4-phenyl-2-oxo-1-butanol (211 mg) and dicyclohexylcarbodiimide (330 mg) were added and the resulting solution was stirred at room temperature for 16 hours. The reaction solution was filtered and the filtrate was poured into water layer (50 ml), followed by extraction twice with ethyl acetate (20 ml). The organic layers were combined and washed with saturated brine, followed by drying over sodium sulfate. After removing the sodium sulfate by filtration, the solvent was removed under reduced pressure and the residue was purified by column chromatography (solvent: hexane/ethyl acetate=3/1) using silica gel to obtain the desired compound (178 mg, yield: 47%).

reactant | 7-methoxybenzofuran-3-carboxylic acid | 220 mg | COC1=CC=CC=2C(=COC21)C(=O)O | C10H8O4
reactant | 4-phenyl-2-oxo-1-butanol | 211 mg | C1(=CC=CC=C1)CCC(CO)=O | C10H12O2
reactant | dicyclohexylcarbodiimide | 330 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | THF | 5 ml | C1CCOC1 | C4H8O
product | 3-((4-phenyl-2-oxobutoxy)carbonylmethyl)-7-methoxybenzofuran | 178 mg, yield: 47% | C1(=CC=CC=C1)CCC(COC(=O)CC1=COC2=C1C=CC=C2OC)=O | C21H20O5
